Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OTOLARYNGOLOGY
 
Allergies: 
Clindamycin
 
Attending: ___.
 
Chief Complaint:
Leukoplakia/erythroplasia of the left lateral oral tongue
 
Major Surgical or Invasive Procedure:
1. Excision of left lateral oral tongue lesion.
2. Reconstruction of oral cavity defect with split-
    thickness skin graft from left leg.
3. Laryngoscopy.
4. Esophagoscopy.

 
History of Present Illness:
Patient is a ___ with h/o SCC of right lateral tongue s/p 
excision who now has leukoplakia of the left lateral tongue.  
ROS was unremarkable.  She denies recent weight loss, dysphagia, 
trouble swallowing.      
 
Past Medical History:
-PE s/p excision of tongue lesion ___ (no coumadin, on ___
-HTN 
-hypothyroidism
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: A&Ox3, obese
Neuro: CHII-XII intact to direct testing
HEENT: OP remarkable for white plaque left lateral tongue, 
otherwise unremarkable; no cervical LAD.
Chest: CTAB
Cor: Sinus brady, no m
Abd: Soft, NT/ND
Ext: no c/c/e

 
Pertinent Results:
Labs:
___ 10:29AM BLOOD WBC-5.9 RBC-3.79* Hgb-11.6* Hct-33.9* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-14.3 Plt ___
___ 06:05AM BLOOD Glucose-147* UreaN-26* Creat-1.0 Na-143 
K-4.3 Cl-108 HCO3-23 AnGap-16
___ 01:20PM BLOOD CK(CPK)-141*
___ 03:00AM BLOOD CK-MB-5 cTropnT-<0.01
___ 07:00PM BLOOD CK-MB-5 cTropnT-<0.01
___ 01:20PM BLOOD CK-MB-5 cTropnT-0.07*
___ 06:05AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.9
___ 08:10AM BLOOD WBC-7.5 RBC-3.76* Hgb-11.4* Hct-34.4* 
MCV-91 MCH-30.2 MCHC-33.1 RDW-14.1 Plt ___
___ 07:40AM BLOOD Glucose-113* UreaN-24* Creat-0.9 Na-137 
K-3.7 Cl-104 HCO3-22 AnGap-15
___ 01:00PM BLOOD LD(LDH)-226 TotBili-0.2
___ 07:40AM BLOOD Calcium-9.6 Phos-2.7 Mg-1.9
Imaging:
Echo ___:
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF 60-70%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. There 
are focal calcifications in the aortic arch. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Trivial mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.  
CTA Chest ___:
1. No pulmonary embolus. 
2. Left lower lobe peribronchial infiltration representing 
infection or 
inflammation. 
3. Mild atelectasis at the right base and a tiny right-sided 
pleural 
effusion. 
CXR ___:
Mild cardiomegaly persists. Perihilar haziness, vascular 
indistinctness, and small bilateral pleural effusions are 
consistent with mild congestive heart failure and are unchanged 
compared to the prior examination. No focal consolidations or 
pneumothorax. A feeding tube courses 
beyond the limits of this examination. 

 
Brief Hospital Course:
Patient was admitted for excision left tongue lesion with STSG 
on ___.  Please see Dr. ___ note for 
details.  A dobhoff tube was inserted intraoperatively.  She 
tolerated the procedure well, was transferred to the PACU and 
then to floor in stable condition.  Pain was well controlled 
with IV morphine, then oxycodone and standing tylenol.  She was 
placed on subcutaneous heparin for DVT prophylaxis and 
clindamycin while her bolster was in place.  Continuous tube 
feeds were initiated on POD1.  A nutrition consult was obtained. 
 On POD1 she had asymptomatic sinus bradycardia and 
nonreproducible chest discomfort.  Given her past h/o of post op 
PE, we had a low threshold to workup the chest pain.  Cardiac 
enzymes were drawn, which initially showed an elevated troponin 
of 0.7 (her GFR was normal) with a normal CKMB.  An ECG showed 
no acute changes from baseline.  A CXR showed signs of mild CHF. 
 Medicine was consulted and recommended a CTA chest and TTE in 
addition to our initial workup.  The CTA chest was negative for 
PE and her TTE was normal except for mild hypertensive 
cardiomyopathy.  Her cardiac enzymes were subsequently negative. 
 It is unclear what caused the initial troponin bump.  On POD1 
she also developed a drug rash, which resolved on 
discontinuation of clindamycin.  She was switched to 
ancef/flagyl at that time.  On POD3 her platelet count dropped 
from 122 to 72, concerning for HIT.  However, a repeat CBC 
showed a platelet count of 123, suggesting that the initial 
alarming result was spurious.  HIT antibodies were not sent 
given her low 4T score (ie low likelihood of HIT).  On POD5 her 
bolster was taken down and she was started on clears.  The 
following day she was able to tolerate softs and her dobhoff was 
removed. She was discharged to home on POD7 in good condition.  
 
Medications on Admission:
atenolol 25', synthroid ___, lisinopril 5', mvi', prilosec, ASA 
81', calc/vitD/vitk

 
Discharge Medications:
1. Chlorhexidine Gluconate 0.12 % Mouthwash Sig: Fifteen (15) ML 
Mucous membrane QID (4 times a day).
Disp:*1800 ML(s)* Refills:*2*
2. Rosuvastatin 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
7. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed: Do not drive, operate heavy machinery.
Disp:*30 Tablet(s)* Refills:*0*
12. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H 
(every 4 hours) as needed for pain, HA.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Leukoplakia/erythroplasia of the left lateral oral tongue

 
Discharge Condition:
good

 
Discharge Instructions:
Please call your doctor or go to the emergency room if you have 
a fever >101.5F, increased tongue swelling, difficulty 
swallowing or breathing, neck swelling, abdominal pain, chest 
discomort, or any other concerning symptoms.
 
Followup Instructions:
___